US04634777
Preparation of 2,2'-[[1,3-dioxo-2-(2-thienyl)methylene-1,3-propanediyl]diimino]bisbenzoic acid (Compound 40) (Process b)
2,2'-[(1,3-Dioxo-1,3-propanediyl)diimino]bisbenzoic acid (1.0 g, 2.92 mmol) and 2-thiophenealdehyde (0.49 g, 4.38 mmol) were heated under reflux in dry pyridine (8 ml) for 16 hours. After removing pyridine, the mixture was treated with water, made alkaline with 10% aqueous ammonia under ice cooling, and washed with ether. The aqueous layer was made acidic with 1N.HCl under ice cooling, and the precipitated crystals were collected on filter and washed with water. The resulting solid was purified by silica gel column chromatography and the effluent containing the desired compound was collected. After removing solvent, the residue was crystallized by treating water, collected by filtration, washed with water, and dried to give the title compound (0.730 g, yield, 57%), which was recrystallized from the mixed solvent of CH3OH--H2O to give the pale yellow crystals (0.602 g). m.p.: 213°-215° C.

reactant | 2,2'-[(1,3-Dioxo-1,3-propanediyl)diimino]bisbenzoic acid | 2.92 mmol, 1.0 g | O=C(CC(=O)NC1=C(C(=O)O)C=CC=C1)NC1=C(C(=O)O)C=CC=C1 | C17H14N2O6
reactant | 2-thiophenealdehyde | 4.38 mmol, 0.49 g | S1C(=CC=C1)C=O | C5H4OS
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | 2,2'-[[1,3-dioxo-2-(2-thienyl)methylene-1,3-propanediyl]diimino]bisbenzoic acid | 0.730 g, 57% | O=C(C(C(=O)NC1=C(C(=O)O)C=CC=C1)=CC=1SC=CC1)NC1=C(C(=O)O)C=CC=C1 | C22H16N2O6S
